US08486967B2
N-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-pyridin-2-yl}pivalamide
To a solution of N-(pyridin-2-yl)pivalamide (1.84 g, 10 mmol) in tetrahydrofurane (100 mL) was added at −78° C. under an atmosphere of nitrogen 1.6 M butyl lithium in hexane (13.1 mL, 21 mmol). The reaction is slighly exothermic and a yellow color appears. The reaction is warmed to 0° C. within 15 minutes and stirred at 0° C. for 2 hours. A white suspension is formed. The reaction is cooled to −78° C. and 4-fluorobenzaldehyde (1.52 g, 1.29 mL, 12.0 mmol) was added in tetrahydrofurane (6.55 mL). The reaction was warmed to room temperature over night to yield an orange suspension. Saturated aqueous ammonium chloride solution was added and the reaction was extracted twice with ethyl acetate and once with methylene chloride. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. The title compound was obtained as a yellow viscous oil (1.058 g, 35%) after purification by column chromatography on silica gel using a gradient from CH2Cl2 to CH2Cl2/MeOH 19:1 (v/v) as eluent. MS ISP (m/e): 303.1 (100) [(M+H)+].

reactant | N-(pyridin-2-yl)pivalamide | 10 mmol, 1.84 g | N1=C(C=CC=C1)NC(C(C)(C)C)=O | C10H14N2O
reactant | hexane | 21 mmol, 13.1 mL | CCCCCC | C6H14
reactant | 4-fluorobenzaldehyde | 12.0 mmol, 1.29 mL, 1.52 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofurane | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 6.55 mL | O1CCCC1 | C4H8O
product | N-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-pyridin-2-yl}pivalamide | FC1=CC=C(C=C1)C(C=1C(=NC=CC1)NC(C(C)(C)C)=O)O | C17H19FN2O2
